### PR TITLE
feat(RingTheory/KrullAkizuki): add the Krull-Akizuki theorem

### PR DESCRIPTION
**Pull request by Yangdx02**
This PR proves the Krull–Akizuki theorem. It proves that if $A$ is a one-dimensional Noetherian domain with fraction field $K$, $L / K$ is a finite extension, and $B$ is a subring of $L$ containing $A$, then $B$ is a Noetherian ring of Krull dimension at most one, and every nonzero ideal of $B$ has finite $A$-length quotient.

Main results:
* `krullAkizuki_isNoetherianRing`
* `krullAkizuki_dimensionLEOne`
* `krullAkizuki_quotient_ideal_finiteLength`
* `krull_akizuki`

---

### CODE REVIEW

File: Mathlib/RingTheory/KrullAkizuki.lean [hunk 1]
```diff
@@ -0,0 +1,715 @@
...
+
+section Lemmata
+
+variable {R M : Type*} [Ring R] [AddCommGroup M] [Module R M]
+
+/-- For an endomorphism `φ` of a module of finite length, the length of `ker φ` equals the
+length of `coker φ`. -/
+theorem length_ker_eq_length_coker
+    (φ : M →ₗ[R] M) (hlen : Module.length R M < ⊤) :
+    Module.length R (LinearMap.ker φ) = Module.length R (M ⧸ LinearMap.range φ) := by
```
Comment (tb65536) [inline Mathlib/RingTheory/KrullAkizuki.lean]: General results like this should be moved to a more appropriate file.

File: Mathlib/RingTheory/KrullAkizuki.lean [hunk 2]
```diff
@@ -0,0 +1,715 @@
...
+            exact ⟨Submodule.comap_mono hle, ⟨z, Submodule.mem_sup_right hz3⟩, hz1, hz2⟩)
+        h_lt }
+  refine ⟨q', rfl, fun i x hx => ?_⟩
+  obtain ⟨y, hy, hy_eq⟩ := (Submodule.mem_smul_pointwise_iff_exists x.val a FS).mp hx
+  have hx_top : (x.val : M) ∈ a • (⊤ : Submodule A M) :=
+    (Submodule.mem_smul_pointwise_iff_exists x.val a (⊤ : Submodule A M)).mpr
+      ⟨y, Set.mem_univ y, hy_eq⟩
+  exact (q.toFun i).property hx_top
+
+variable [Ring.DimensionLEOne A]
```
Comment (tb65536) [inline Mathlib/RingTheory/KrullAkizuki.lean]: Might be better to use `Ring.KrullDimLE` (I think we're trying to move away from `Ring.DimensionLEOne` since it has differing behavior on domains vs non-domains).

File: Mathlib/RingTheory/KrullAkizuki.lean (hunk 1 above)
Comment (Yangdx02) [reply Mathlib/RingTheory/KrullAkizuki.lean]: Moved this (length_ker_eq_length_coker) and the next lemma (length_quotient_chain) to Ring.Length.

File: Mathlib/RingTheory/KrullAkizuki.lean (hunk 2 above)
Comment (Yangdx02) [reply Mathlib/RingTheory/KrullAkizuki.lean]: Done. Replaced every reference to DimensionLEOne by KrullDimLE 1.

File: Mathlib/RingTheory/KrullAkizuki.lean [hunk 3]
```diff
@@ -0,0 +1,674 @@
...
+      rw [← h_eval_q_add, hq_eval_zero]
+    calc algebraMap A B (q.coeff 0) =
+          - (b * ∑ i ∈ Finset.range q.natDegree, algebraMap A B (q.coeff (i + 1)) * b^i) :=
+            eq_neg_of_add_eq_zero_left h_add
+         _ = -b * (∑ i ∈ Finset.range q.natDegree, algebraMap A B (q.coeff (i + 1)) * b^i) :=
+            by ring
+  refine ⟨q.coeff 0, hq_zero, ?_⟩
+  rw [h_eval_q]
+  apply Ideal.mul_mem_right
+  exact neg_mem hbJ
```
Comment (vlad902) [inline Mathlib/RingTheory/KrullAkizuki.lean]: I have not thought at all about what the proof is trying to show, but just wanted to show some ways to cut down the length of it and make it slightly more canonical. Also if you `open Polynomial in` this proof you can make some of these expressions a bit more concise (like with `mul_dvd_mul_left` below)
```suggestion
open Polynomial in
/-- If a non-zero element `b ∈ J` is a root of a nonzero polynomial over `A`, then `J` contains a
nonzero element of `A`. -/
lemma ideal_inter_of_aeval_eq_zero
    (B : Type*) [CommRing B] [IsDomain B] [Algebra A B]
    (J : Ideal B) (b : B) (hb : b ≠ 0) (hbJ : b ∈ J)
    (p : Polynomial A) (hp : p ≠ 0) (heval : Polynomial.aeval b p = 0) :
    ∃ a : A, a ≠ 0 ∧ algebraMap A B a ∈ J := by
  let k := rootMultiplicity 0 p
  obtain ⟨q, hq_eq⟩ := pow_rootMultiplicity_dvd p 0
  rw [Polynomial.C_0, sub_zero] at hq_eq
  refine ⟨q.coeff 0, fun h ↦ ?_, ?_⟩
  · apply pow_rootMultiplicity_not_dvd hp 0
    simpa [pow_succ, ← hq_eq] using mul_dvd_mul_left (X ^ rootMultiplicity 0 p) (X_dvd_iff.mpr h)
  have hq_eval_zero : Polynomial.aeval b q = 0 := by
    rw [hq_eq, map_mul, map_pow, Polynomial.aeval_X] at heval
    rcases mul_eq_zero.mp heval with h | h
    · exact absurd (eq_zero_of_pow_eq_zero h) hb
    · exact h
  have h_eval_q_add : algebraMap A B (q.coeff 0) =
      -(b * (∑ i ∈ Finset.range q.natDegree, algebraMap A B (q.coeff (i + 1)) * b^i)) := by
    rw [eq_neg_iff_add_eq_zero, ← hq_eval_zero, aeval_eq_sum_range, Finset.sum_range_succ']
    simp only [Algebra.smul_def]
    grind [Finset.mul_sum]
  rw [h_eval_q_add, neg_mem_iff]
  exact Ideal.mul_mem_right _ _ hbJ
```

Comment (Yangdx02) [reply Mathlib/RingTheory/KrullAkizuki.lean]: Thanks for your suggestion. I agree that I should open Polynomial here. The version you commented on takes about 2800 Heartbeats to run, while your code takes about 11000 Heartbeats to run. I have now adopted your suggestion and the new code takes about 2100 Heartbeats. Regards.

File: Mathlib/RingTheory/KrullAkizuki.lean [hunk 4]
```diff
@@ -0,0 +1,647 @@
...
+  (K : Type*) [Field K] [Algebra A K] [IsFractionRing A K]
+  (L : Type*) [Field L] [Algebra K L] [FiniteDimensional K L]
+  (B : Type*) [CommRing B] [IsDomain B]
+  [Algebra A B] [Algebra B L] [Algebra A L]
+  [IsScalarTower A K L] [IsScalarTower A B L]
+  [NoZeroSMulDivisors B L]
+
+open Classical in
+/-- The `A`-rank of `B` is at most `[L : K]`. -/
+theorem krullAkizuki_B_rank_le :
```
Comment (tb65536) [inline Mathlib/RingTheory/KrullAkizuki.lean:509]: theorem names should not reference variable names

File: Mathlib/RingTheory/KrullAkizuki.lean [hunk 5]
```diff
@@ -0,0 +1,647 @@
...
+      _ < ⊤ := WithTop.mul_lt_top (ENat.coe_lt_top _) Module.length_ne_top.lt_top
+  rw [h_idealSmul_eq] at h_idealSmul
+  exact lt_of_le_of_lt (Module.length_le_of_surjective g <|
+    fun x => (Ideal.Quotient.mk_surjective x).elim fun b hb => ⟨Ideal.Quotient.mk I b, hb⟩)
+    h_idealSmul
+
+include A
+
+/-- **Krull–Akizuki theorem** (Noetherian part): `B` is a Noetherian ring. -/
+theorem krullAkizuki_isNoetherianRing :
```
Comment (tb65536) [inline Mathlib/RingTheory/KrullAkizuki.lean:613]: maybe `krullAkizuki` should be a namespace rather than part of the theorem names?

**Comment by grunweg** [comment]
Hello from triage! Can you comment on whether you used AI for this project? Thanks!
(Per mathlib's [AI policy](https://leanprover-community.github.io/contribute/#use-of-ai), this is not forbidden in principle, but its usage must be disclosed.)
